***** Ideal Transformer Test ************
***** transformer.net
***** transformer In LRT Out LRT n1=turns_primary n2=turns_second 

.options gmin=0 ftol=1.e-10

*.ac start=1 stop = 100 n_freqs=10
.tran2 tstop = 50e-3 tstep = 10e-6 gcomp=0 im=2

***** print detailed info to .OUT file
.options verbose

**************** Circuit **************************
*++++++ source for ac analysis
*vsource:v1 1 0 vac=10V 

*++++++ source for transient analysis
vsource:v1 1 0 vac=10V f=60
r:rin 1 2 r=50

*+++++for turn ratio 1-to-1 Vin=Vout: 10V=10V
*transformer:t1 2 0 3 0 

*+++++for turn ratio 10-to-1 -> Vin/t=Vout: 10V=0.1V
*transformer:t1 2 0 3 0 n1=10

*+++++for turn ratio 1-to-10 -> Vin/t=Vout: 10V=100V
transformer:t1 2 0 3 0 n2=10

r:rload 3 0 r=1e6

*+++++ for output reference other then Ground
*+++++ turn ratio=1-to-1 -> Vin=Vout
*transformer:t1 2 0 3 4 
*+++++ Define reference point for FREEDA
*.ref 4
*r:rload 3 4 r=1.e6

***************** Simulation *******************************************
.options gnuplot

***************** Transient Simulation Results *************************
*++++++ set up plot preamble with font and label information
.options plotVT1Preample="set term x11 font 'helvetica,18';
         set title 'Source Voltage';
         set xlabel 'Time (milliseconds)'; set ylabel 'Voltage (V_ac)'"
.out plot term 1 vt 1e3 scalex plotVT1Preample in "vsource.out" 

.options plotVT1Preample="set term x11 font 'helvetica,18';
         set title 'Voltage at Input Terminal';
         set xlabel 'Time (milliseconds)'; set ylabel 'Voltage (V_ac)'"
.out plot term 2 vt 1e3 scalex plotVT1Preample in "vprimary.out" 

.options plotVT1Preample="set term x11 font 'helvetica,18';
         set title 'Voltage at Output Terminal';
         set xlabel 'Time (milliseconds)'; set ylabel 'Voltage (V_ac)'"
.out plot term 3 vt 1e3 scalex plotVT1Preample in "vsecondary.out" 

****************** Frequency Simulation Results (.AC analysis)************
*.options plotVT1Preample="set term x11 font 'helvetica,18';
*         set title 'Voltage at Input Terminal';
*         set xlabel 'Frequency (Hz)'; set ylabel 'Voltage (V_ac)'"
*.out plot term 2 vf mag plotVT1Preample in "vprimary.out" 

*.options plotVT1Preample="set term x11 font 'helvetica,18';
*         set title 'Voltage at Output Terminal';
*         set xlabel 'Frequency (Hz)'; set ylabel 'Voltage (V_ac)'"
*.out plot term 3 vf mag plotVT1Preample in "vsecondary.out" 

.end

